US06809110B2
0.5 g of 10% palladium on charcoal were added to a solution of 3.7 g of [rac]-3-(4-benzyloxy-3-fluoro-phenyl)-2-isopropoxy-propionic acid ethyl ester (10.26 mmol) in 30 ml of THF and the compound was stirred under an atmosphere of H2, at normal pressure and ambient temperature, until the absorption of gas stopped. After filtration of the catalyst and evaporation of the filtrate, 2.7 g of [rac]-3-(3-fluoro-4-hydroxy-phenyl)-2-isopropoxy-propionic acid ethyl ester were obtained as colorless viscous oil (97.3% of theory).

reactant | [rac]-3-(4-benzyloxy-3-fluoro-phenyl)-2-isopropoxy-propionic acid ethyl ester | 10.26 mmol, 3.7 g | C(C)OC(C(CC1=CC(=C(C=C1)OCC1=CC=CC=C1)F)OC(C)C)=O | C21H25FO4
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | [rac]-3-(3-fluoro-4-hydroxy-phenyl)-2-isopropoxy-propionic acid ethyl ester | 2.7 g | C(C)OC(C(CC1=CC(=C(C=C1)O)F)OC(C)C)=O | C14H19FO4
